US07737166B2
2-Cyclopropyl-7-fluoro-5-methyl-6-(thiophen-3-yl)-1,3-benzoxazole-4-carbonitrile (I-307-1)
6-Bromo-2-cyclopropyl-7-fluoro-5-methylbenzoxazole-4-carbonitrile (I-77) (200 mg, 0.68 mmol), 3-thiopheneboronic acid (347 mg, 2.71 mmol) and tripotassium phosphate (288 mg, 1.36 mmol) were suspended in 1,4-dioxane (8 ml), and at room temperature, tetrakis(triphenylphosphine)palladium(0) (157 mg, 0.14 mmol) was added. The mixture liquid was stirred under nitrogen atmosphere at 95° C. for 61 hours, then cooled to room temperature. The insoluble matter was separated by filtration with washing with ethyl acetate, and the filtrate was washed with saturated brine. The organic layer was dried over anhydrous sodium sulfate. The insoluble matter was separated by filtration, the solvent was evaporated away, and the resulting residue was purified by middle-pressure liquid chromatography (eluent, n-hexane:ethyl acetate=19:1, v/v) to obtain the entitled compound (99 mg, 49%) as a white solid.

reactant | 6-Bromo-2-cyclopropyl-7-fluoro-5-methylbenzoxazole-4-carbonitrile | 0.68 mmol, 200 mg | BrC=1C(=C2C(N=C(O2)C2CC2)=C(C1C)C#N)F | C12H8BrFN2O
reactant | 3-thiopheneboronic acid | 2.71 mmol, 347 mg | S1C=C(C=C1)B(O)O | C4H5BO2S
reactant | tripotassium phosphate | 1.36 mmol, 288 mg | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
solvent | 1,4-dioxane | 8 ml | O1CCOCC1 | C4H8O2
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.14 mmol, 157 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-Cyclopropyl-7-fluoro-5-methyl-6-(thiophen-3-yl)-1,3-benzoxazole-4-carbonitrile | 99 mg, 49% | C1(CC1)C=1OC=2C(N1)=C(C(=C(C2F)C2=CSC=C2)C)C#N | C16H11FN2OS
